US07091227B2
N-Ethyl-N′-(8H-[1,3]thiazolo[4,5-g]indol-2-yl)urea
To a suspension of N-(5,8-dihydro-4H-[1,3]thiazolo[4,5-g]indol-2-yl)-N′-ethylurea (81 mg, 0.308 mmol) in toluene (3.5 mL) was added DDQ (78 mg, 0.34 mmol). The reaction mixture was stirred at about 45° C. for about 4 hrs. The reaction mixture was pumped down and the crude material was purified by preparative HPLC. 3 mg (4%, 2 steps) pure product was isolated. LC/MS 262 (MH+); RP-BPLC RT 10.45 min.

reactant | N-(5,8-dihydro-4H-[1,3]thiazolo[4,5-g]indol-2-yl)-N′-ethylurea | 0.308 mmol, 81 mg | S1C(=NC=2CCC=3C=CNC3C21)NC(=O)NCC | C12H14N4OS
reactant | DDQ | 0.34 mmol, 78 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-Ethyl-N′-(8H-[1,3]thiazolo[4,5-g]indol-2-yl)urea | C(C)NC(=O)NC=1SC2=C(C=CC=3C=CNC23)N1 | C12H12N4OS
